US07271261B2
2-[4-(3,4-Dichloro-phenoxy)-phenyl]-1H-imidazo[4,5-b]pyridine-5-carboxylic acid amide. A flask containing 6-amino-5-nitro-pyridine-2-carbonitrile (67 mg, 0.40 mmol), 10% palladium on carbon (catalytic) and ethanol (2.0 mL) was put under an atmosphere of H2 using a balloon. The mixture was stirred at room temperature for 3 h, and filtered through a pad of celite. The filtrate was concentrated to provide crude 5,6-diamino-pyridine-2-carbonitrile. A portion of this 5,6-diamino-pyridine-2-carbonitrile (89 mg, 0.66 mmol) was treated with 4-(3,4-dichloro-phenoxy)-benzaldehyde (177 mg, 0.66 mmol), Na2S2O5 (188 mg, 0.99 mmol) and N,N-dimethylacetamide (3.0 mL). The mixture was stirred at 120° C. for 24 h. The reaction mixture was then diluted with water (8 mL), and the resulting precipitate was collected by filtration. The crude filtrate, 2-[4-(3,4-dichloro-phenoxy)-phenyl]-1H-imidazo[4,5-b]pyridine-5-carbonitrile (35 mg, 0.09 mmol), was treated with boron trifluoride/acetic acid complex (461 μL) and water (10 μL), and held at 115° C. for 30 min. The reaction mixture was cooled to room temperature and diluted with 4 N NaOH (10 mL). The resulting precipitate was collected by filtration, washed with water, and dried to provide 34 mg (94%) of the title compound.

reactant | 2-[4-(3,4-Dichloro-phenoxy)-phenyl]-1H-imidazo[4,5-b]pyridine-5-carboxylic acid amide | ClC=1C=C(OC2=CC=C(C=C2)C=2NC=3C(=NC(=CC3)C(=O)N)N2)C=CC1Cl | C19H12Cl2N4O2
reactant | 6-amino-5-nitro-pyridine-2-carbonitrile | 0.40 mmol, 67 mg | NC1=C(C=CC(=N1)C#N)[N+](=O)[O-] | C6H4N4O2
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | 2.0 mL | C(C)O | C2H6O
product | 5,6-diamino-pyridine-2-carbonitrile | NC=1C=CC(=NC1N)C#N | C6H6N4
